* D:\Files\University\Term 4\DLD Lab\Projects\Project1\Draft1.asc
XU1 N001 N001 output VCC 0 74HCT132 VCC=5 SPEED=1.0 TRIPDT=1e-9
C1 N001 0 10n
R1 output N001 1k
.lib 74hct.lib
.tran 0.01
.backanno
.end
